US08809369B2
A mixture solution of 2-(3-bromo-phenyl)-6-chloro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (8.9 g, 7 mmol), morpholine (6.1 mL, 70 mmol), copper(I) iodide (0.4 g, 2.1 mmol), N,N-dimethylglycine hydrochloride (0.4 g, 2.8 mmol), and potassium carbonate (2.9 g, 21 mmol) in dimethyl sulfoxide (20 mL) was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature. The reaction mixture was extracted with ethyl acetate (150 mL×2), washed with saturated aqueous ammonium chloride solution (50 mL×3) and brine (50 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 30-50% ethyl acetate in petroleum ether) to afford 6-chloro-4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (2.7 g, 96%) as a white solid: MS (ESI) M+1=401.2.

reactant | 2-(3-bromo-phenyl)-6-chloro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 7 mmol, 8.9 g | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)Br)(C)C)Cl | C19H19BrClNO2
reactant | morpholine | 70 mmol, 6.1 mL | N1CCOCC1 | C4H9NO
reactant | N,N-dimethylglycine hydrochloride | 2.8 mmol, 0.4 g | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 21 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 2.1 mmol, 0.4 g | [Cu]I
product | 6-chloro-4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 2.7 g, 96% | ClC=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC(=CC=C1)N1CCOCC1)(C)C | C22H25ClN2O3
